US06251919B1
The preparation of Example 17: {4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl }-[4-methyl-1-(3-methyl-butyl)-piperidin-2-yl]-methanone was made in accordance with the process of Example 11 (Step 3), except that 4-Methyl-1-(3-methyl-butyl)-piperidine-2-carboxylic acid was used instead of 1-(3-Methyl-butyl)-piperidine-2-carboxylic acid (14% yield).

reactant | {4-[(4-Benzyloxy-phenyl)-(3-methyl-but-2-enyl)-amino]-piperidin-1-yl }-[4-methyl-1-(3-methyl-butyl)-piperidin-2-yl]-methanone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N(C1CCN(CC1)C(=O)C1N(CCC(C1)C)CCC(C)C)CC=C(C)C | C35H51N3O2
reactant | 4-Methyl-1-(3-methyl-butyl)-piperidine-2-carboxylic acid | CC1CC(N(CC1)CCC(C)C)C(=O)O | C12H23NO2
product | 1-(3-Methyl-butyl)-piperidine-2-carboxylic acid | 14% yield | CC(CCN1C(CCCC1)C(=O)O)C | C11H21NO2
